US07723356B2
Siii) (S)-Cyclohex-1-enyl-hydroxy-phenyl-acetic acid
(2R,5S)-2-tert-Butyl-5-(1-hydroxy-cyclohexyl)-5-phenyl-[1,3]dioxolan-4-one (176 g, 0.553 mol) in THF (1.56 litres) is cooled to 0° C. and treated dropwise with thionyl chloride (109 ml, 1.49 mol) followed by pyridine (191 ml, 2.35 mol) over 40 minutes. After stirring at 0° C. for 30 minutes, the reaction is quenched by dropwise addition of saturated ammonium chloride solution (2000 ml) ensuring the temperature does not exceed 25° C. Water (300 ml) is added and the organic portion is separated. The aqueous is extracted with EtOAc (1000 ml) and the combined organic layers are washed with brine and concentrated in vacuo. To the resulting crude material is added MeOH (333 ml) followed by water (586 ml). The mixture is stirred and treated with potassium hydroxide (221.2 g, 5.53 mol) maintaining the temperature below 50° C. The reaction mixture is heated to reflux for 3.5 hour and then allowed to cool to room temperature. The methanol is removed in vacuo and the aqueous is cooled to 0° C. The solution is acidified to pH1 with 5M HCl and then diluted with water (1 litre). The solution is extracted with EtOAc (2×1 litre) and the combined organic portions are dried (Na2SO4) and concentrated in vacuo to afford the titled product.

reactant | (2R,5S)-2-tert-Butyl-5-(1-hydroxy-cyclohexyl)-5-phenyl-[1,3]dioxolan-4-one | 0.553 mol, 176 g | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)C1(CCCCC1)O | C19H26O4
reactant | thionyl chloride | 1.49 mol, 109 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 2.35 mol, 191 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium hydroxide | 5.53 mol, 221.2 g | [OH-].[K+]
solvent | THF | 1.56 litres | C1CCOC1 | C4H8O
product | (S)-Cyclohex-1-enyl-hydroxy-phenyl-acetic acid | C1(=CCCCC1)[C@@](C(=O)O)(C1=CC=CC=C1)O | C14H16O3
